### ISSUE TITLE
Incorrectly adding propext with nanoda kernel

### ISSUE THREAD

**Issue by stephen-huan** [leanprover/comparator#51]
For theorems that don't use `propext` (see below for a minimum example), they pass the check with the Lean default kernel...

```text
Exporting #[mwe, Quot.sound, Nat.add, Nat.sub, Nat.mul, Nat.pow, Nat.gcd, Nat.div, Nat.mod, Nat.beq, Nat.ble, Nat.land, Nat.lor, Nat.xor, Nat.shiftLeft, Nat.shiftRight, String.ofList] from Solution
Running Lean default kernel on solution.
Lean default kernel accepts the solution
Your solution is okay!
```

...but not the nanoda kernel.

```
Running nanoda kernel on solution
Error: export file declares unpermitted axiom "propext"

run with `-h` or `--help` for help
uncaught exception: resource vanished (error code: 32, broken pipe)
```

This is because `Nat.xor` depends on `propext` and is unconditionally exported as part of `primitiveTargets`.

https://github.com/leanprover/comparator/blob/3afea238d63125383110f8b59acaf11d7788c3e1/Main.lean#L222

That's why it shows up in the export list despite not being used in the example. If I'm reading the code right, for the default kernel axioms are only checked for theorems and definitions in the solution, and _not_ the more general `exportTargets` list that includes `primitiveTargets`. However, since nanoda is ran on the entire `exportTargets` which includes `Nat.xor`, it detects the use of `propext` and gives the error.

https://github.com/leanprover/comparator/blob/3afea238d63125383110f8b59acaf11d7788c3e1/Main.lean#L252

https://github.com/leanprover/comparator/blob/3afea238d63125383110f8b59acaf11d7788c3e1/Main.lean#L258-L259

https://github.com/leanprover/comparator/blob/3afea238d63125383110f8b59acaf11d7788c3e1/Main.lean#L267

https://github.com/leanprover/comparator/blob/3afea238d63125383110f8b59acaf11d7788c3e1/Main.lean#L254

Note that directly running nanoda on the theorem `mwe` with

```
lake env lean4export Solution -- mwe | nanoda_bin nanoda_config.json
```

using the nanoda configuration from comparator

```json
{"nat_extension":true,"permitted_axioms":[],"string_extension":true,"unpermitted_axiom_hard_error":true,"use_stdin":true}
```

https://github.com/leanprover/comparator/blob/3afea238d63125383110f8b59acaf11d7788c3e1/Main.lean#L158-L164

passes the check as expected.

Challenge.lean

```lean
theorem mwe (n : Nat) : n = n := sorry
```

Solution.lean

```
theorem mwe (n : Nat) : n = n := rfl
```

config.json

```json
{
    "challenge_module": "Challenge",
    "solution_module": "Solution",
    "theorem_names": ["mwe"],
    "permitted_axioms": [],
    "enable_nanoda": true
}
```

lakefile.toml

```
name = "comparatortest"
version = "0.1.0"

[[lean_lib]]
name = "Solution"

[[lean_lib]]
name = "Challenge"
```

**Comment by stephen-huan** [comment]
It is certainly not the most elegant solution, but one can simply patch `Nat.xor` to not use `propext`.

```patch
From 6574870d0e8ff67eda4d4a84051db511a7437ae2 Mon Sep 17 00:00:00 2001
From: Stephen Huan <stephen.huan@cgdct.moe>
Date: Sat, 6 Jun 2026 08:25:39 -0400
Subject: [PATCH] chore: remove propext from Nat.xor

---
 src/Init/Data/Nat/Basic.lean     | 10 +++++-----
 src/Init/Data/Nat/Div/Basic.lean | 15 ++++++++-------
 2 files changed, 13 insertions(+), 12 deletions(-)

diff --git a/src/Init/Data/Nat/Basic.lean b/src/Init/Data/Nat/Basic.lean
index bd28e4a437..ef45a2b32f 100644
--- a/src/Init/Data/Nat/Basic.lean
+++ b/src/Init/Data/Nat/Basic.lean
@@ -732,12 +732,12 @@ theorem exists_eq_add_one_of_ne_zero : ∀ {n}, n ≠ 0 → Exists fun k => n =
 theorem ctor_eq_zero : Nat.zero = 0 :=
   rfl
 
-protected theorem one_ne_zero : 1 ≠ (0 : Nat) := by simp
+protected theorem one_ne_zero : 1 ≠ (0 : Nat) := Nat.noConfusion
 
 @[simp] protected theorem zero_ne_one : 0 ≠ (1 : Nat) :=
   fun h => Nat.noConfusion h
 
-theorem succ_ne_zero (n : Nat) : succ n ≠ 0 := by simp
+theorem succ_ne_zero (n : Nat) : succ n ≠ 0 := Nat.noConfusion
 
 instance instNeZeroSucc {n : Nat} : NeZero (n + 1) := ⟨succ_ne_zero n⟩
 
@@ -970,13 +970,13 @@ theorem sub_succ_lt_self (a i : Nat) (h : i < a) : a - (i + 1) < a - i := by
 
 theorem sub_ne_zero_of_lt : {a b : Nat} → a < b → b - a ≠ 0
   | 0, 0, h      => absurd h (Nat.lt_irrefl 0)
-  | 0, succ b, _ => by simp only [Nat.sub_zero, ne_eq, not_false_eq_true, Nat.succ_ne_zero]
+  | 0, succ b, _ => by exact succ_ne_zero b
   | succ a, 0, h => absurd h (Nat.not_lt_zero a.succ)
   | succ a, succ b, h => by rw [Nat.succ_sub_succ]; exact sub_ne_zero_of_lt (Nat.lt_of_succ_lt_succ h)
 
 theorem add_sub_of_le {a b : Nat} (h : a ≤ b) : a + (b - a) = b := by
   induction a with
-  | zero => simp
+  | zero => rw [Nat.add_comm]; rfl
   | succ a ih =>
     have hne : b - a ≠ 0 := Nat.sub_ne_zero_of_lt h
     have : a ≤ b := Nat.le_of_succ_le h
@@ -1071,7 +1071,7 @@ theorem add_le_of_le_sub {a b c : Nat} (hle : b ≤ c) (h : a ≤ c - b) : a + b
   | ⟨d, hd⟩ =>
     apply @le.intro _ _ d
     rw [Nat.eq_add_of_sub_eq hle hd.symm]
-    simp [Nat.add_comm, Nat.add_left_comm]
+    rw [Nat.add_assoc, Nat.add_comm b, <- Nat.add_assoc]
 
 theorem le_sub_of_add_le {a b c : Nat} (h : a + b ≤ c) : a ≤ c - b := by
   match le.dest h with
diff --git a/src/Init/Data/Nat/Div/Basic.lean b/src/Init/Data/Nat/Div/Basic.lean
index b1645a4d16..c8179c8b8e 100644
--- a/src/Init/Data/Nat/Div/Basic.lean
+++ b/src/Init/Data/Nat/Div/Basic.lean
@@ -44,13 +44,14 @@ theorem div_eq (x y : Nat) : x / y = if 0 < y ∧ y ≤ x then (x - y) / y + 1 e
     rw [Nat.div.go]
     split
     next =>
-      simp only [and_self, ↓reduceIte, *]
+      split
       congr 1
       apply div.go.fuel_congr
+      have : 0 < y ∧ y ≤ x := ⟨by assumption, by assumption⟩; contradiction
     next =>
-      simp only [and_false, ↓reduceIte, *]
+      split; (next h => have := h.right; contradiction); rfl
   next =>
-    simp only [false_and, ↓reduceIte, *]
+    split; (next h => have := h.left; contradiction); rfl
 
 /--
 An induction principle customized for reasoning about the recursion pattern of natural number
@@ -74,9 +75,9 @@ theorem div_le_self (n k : Nat) : n / k ≤ n := by
     rw [div_eq]
     -- Note: manual split to avoid Classical.em which is not yet defined
     cases (inferInstance : Decidable (0 < k ∧ k ≤ n)) with
-    | isFalse h => simp [h]
+    | isFalse h => split; contradiction; exact Nat.zero_le n
     | isTrue h =>
-      suffices (n - k) / k + 1 ≤ n by simp [h, this]
+      suffices (n - k) / k + 1 ≤ n by split; assumption; contradiction
       have ⟨hK, hKN⟩ := h
       have hSub : n - k < n := sub_lt (Nat.lt_of_lt_of_le hK hKN) hK
       have : (n - k) / k ≤ n - k := ih (n - k) hSub
@@ -85,9 +86,9 @@ theorem div_le_self (n k : Nat) : n / k ≤ n := by
 theorem div_lt_self {n k : Nat} (hLtN : 0 < n) (hLtK : 1 < k) : n / k < n := by
   rw [div_eq]
   cases (inferInstance : Decidable (0 < k ∧ k ≤ n)) with
-  | isFalse h => simp [hLtN, h]
+  | isFalse h => split; contradiction; assumption
   | isTrue h =>
-    suffices (n - k) / k + 1 < n by simp [h, this]
+    suffices (n - k) / k + 1 < n by split; assumption; contradiction
     have ⟨_, hKN⟩ := h
     have : (n - k) / k ≤ n - k := div_le_self (n - k) k
     have := Nat.add_le_of_le_sub hKN this
-- 
2.53.0

```
